US07795267B2
N-[(4-Fluorophenyl)methyl]-tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
(Phenylmethyl)tetrahydro-3-oxo-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate (0.12 g, 0.39 mmol) was dissolved in ethanol (10 mL). 10% Palladium carbon (12 mg) was added thereto, and the mixture was stirred under hydrogen atmosphere at room temperature overnight. The reaction solution was filtered through Celite, the Celite was washed with ethanol, and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (10 mL). 4-Fluorobenzyl isocyanate (0.20 mL, 1.6 mmol) was added thereto, and the mixture was stirred at 50° C. for 4 hours. The reaction solution was concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:9) to obtain the title compound (0.11 g, yield 86%).

reactant | (Phenylmethyl)tetrahydro-3-oxo-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.39 mmol, 0.12 g | C1(=CC=CC=C1)COC(=O)N1CC2N(CC1)C(OC2(C)C)=O | C16H20N2O4
reactant | 4-Fluorobenzyl isocyanate | 1.6 mmol, 0.20 mL | FC1=CC=C(CN=C=O)C=C1 | C8H6FNO
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Palladium carbon | 12 mg | [C].[Pd]
product | N-[(4-Fluorophenyl)methyl]-tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.11 g, yield 86% | FC1=CC=C(C=C1)CNC(=O)N1CC2N(CC1)C(OC2(C)C)=O | C16H20FN3O3
